US03989694
To a solution of 1.0 g. (4 mmol.) of 1-benzyl-4-(2-carbethoxyethyl)-5-hydroxy-1,2,3-triazole in 2 ml. of phosphorus oxychloride is added 0.5 g. (5 mmol.) of phosphorus pentachloride. The reaction mixture is stirred at 25° for 2 hours, then warmed on a steam bath for 10 minutes and evaporated to dryness. The residue is dissolved in 0.5 ml. of phosphorus oxychloride and the solution is heated to reflux for 30 minutes, cooled and evaporated to dryness to give 1-benzyl-4-(2-carbethoxyethyl)-5-chloro-1,2,3-triazole.

reactant | 1-benzyl-4-(2-carbethoxyethyl)-5-hydroxy-1,2,3-triazole | 4 mmol | C(C1=CC=CC=C1)N1N=NC(=C1O)CCC(=O)OCC | C14H17N3O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorus pentachloride | 5 mmol | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 1-benzyl-4-(2-carbethoxyethyl)-5-chloro-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC(=C1Cl)CCC(=O)OCC | C14H16ClN3O2
